US07795423B2
4-[6-(2,2,2-Trifluoro-acetylamino)-hexanoylamino]-benzenesulfonyl azide
To 0.57 g (3 mmol) of para-amino-benzenesulfonyl azide dissolved in 5 mL dimethylformamide was added 0.9 mL (6 mmol) triethylamine, then the (2,2,2-trifluro-acetylamino)-hexanoyl chloride dissolved in 10 mL dimethylformamide was added dropwise. The mixture turned brown and was stirred under argon for 24 hrs. Solvent was evaporated, and the remaining oil was dissolved in 10 mL dichloromethane and left at room temperature for 1 hr. The precipitate was filtrated and the solution was evaporated to yield 1.10 g crude oil. The obtained compound was directly used in oligonucleotide synthesis.

reactant | para-amino-benzenesulfonyl azide | 3 mmol, 0.57 g | NC1=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-] | C6H6N4O2S
reactant | triethylamine | 6 mmol, 0.9 mL | C(C)N(CC)CC | C6H15N
reactant | (2,2,2-trifluro-acetylamino)-hexanoyl chloride | FC(C(=O)NCCCCCC(=O)Cl)(F)F | C8H11ClF3NO2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-[6-(2,2,2-Trifluoro-acetylamino)-hexanoylamino]-benzenesulfonyl azide | 1.10 g | FC(C(=O)NCCCCCC(=O)NC1=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])(F)F | C14H16F3N5O4S
